US07485632B2
0.90 g of Methyl-isothiocyanate are added to a solution of 1.74 g of trans-4-dimethylamino-cyclohexanamine in 50 ml of EtAc. The mixture obtained is stirred at RT, solvent is evaporated and 1-(4-dimethylaminocyclohexyl)-3-methyl-thiourea is obtained.

reactant | Methyl-isothiocyanate | 0.90 g | CN=C=S | C2H3NS
reactant | trans-4-dimethylamino-cyclohexanamine | 1.74 g | CN([C@@H]1CC[C@H](CC1)N)C | C8H18N2
product | 1-(4-dimethylaminocyclohexyl)-3-methyl-thiourea | CN(C1CCC(CC1)NC(=S)NC)C | C10H21N3S
